US04792561
A solution of 502 mg of 6-[3-(imidazol-1-yl)prop-1-yn-1-yl]-3,4-dihydrocarbostyril was stirred under hydrogen in the presence of 200 mg of a 10% palladium on charcoal catalyst as shown in Example 8, and the product was isolated in a similar fashion, giving 6-[3-(imidazol-1-yl)propyl]-3,4-dihydrocarbostyril, m.p. 139°-141° C.

reactant | 6-[3-(imidazol-1-yl)prop-1-yn-1-yl]-3,4-dihydrocarbostyril | 502 mg | N1(C=NC=C1)CC#CC=1C=C2CCC(NC2=CC1)=O | C15H13N3O
catalyst | palladium on charcoal | [Pd] | Pd
product | 6-[3-(imidazol-1-yl)propyl]-3,4-dihydrocarbostyril | N1(C=NC=C1)CCCC=1C=C2CCC(NC2=CC1)=O | C15H17N3O
